US07226923B2
2-(4-tert-Butyl-phenyl)-4-(5-methyl-2H-pyrazol-3-ylamino)-7-nitro-2H-phthalazin-1-one
15 mg 7-Nitro-4-(2-tert-butyl-5-methyl-2H-pyrazol-3-ylamino)-2-(4-tert-butyl-phenyl)-2H-phthalazin-1-one (preparation see ZB-1) were deprotected by heating in formic acid as described for ZA-1. Evaporation of excess formic acid and chromatography of the residue on silica, eluting with dichloromethane and then with dichloromethane/methanol 20:1 gave 7 mg of the title product. 1H-NMR: (400 MHz, D6-DMSO) 11.9 (1H, br s), 9.53 (1H, br s), 8.98 (1H, s), 8.80 (1H, d), 8.71 (1H, d), 7.65 (2H, d), 7.54 (2H, d), 6.25 (1H, s), 2.20 (3H, s), 1.35 (9H, s); MS (ESI+)=418.31 (M+H)+.

reactant | 7-Nitro-4-(2-tert-butyl-5-methyl-2H-pyrazol-3-ylamino)-2-(4-tert-butyl-phenyl)-2H-phthalazin-1-one | 15 mg | [N+](=O)([O-])C1=CC=C2C(=NN(C(C2=C1)=O)C1=CC=C(C=C1)C(C)(C)C)NC=1N(N=C(C1)C)C(C)(C)C | C26H30N6O3
solvent | formic acid | C(=O)O | CH2O2
product | 2-(4-tert-Butyl-phenyl)-4-(5-methyl-2H-pyrazol-3-ylamino)-7-nitro-2H-phthalazin-1-one | 7 mg | C(C)(C)(C)C1=CC=C(C=C1)N1C(C2=CC(=CC=C2C(=N1)NC=1NN=C(C1)C)[N+](=O)[O-])=O | C22H22N6O3
